US07906496B2
Synthesis of 4-Phenyl-Butyric Acid 2-[(Pyridine-3-Carbonyl)Amino]-Ethyl Ester
N-(2-Hydroxy-ethyl)-nicotinamide (3.3 g, 20.0 mmol, 1.0 eq.) was dissolved in DCM (100 mL) and pyridine (20 mL). The light yellow solution was cooled to 2° C. A solution of 4-phenylbutanoylchloride (3.65 g of 20 mmol, 1.0 eq.) in DCM (25 mL) was slowly added. The reaction mixture was stirred for 1 h at 0° C. The reaction mixture was evaporated under reduced pressure and the residue was dissolved in water (100 mL) and ethyl acetate (100 mL). The layers were separated and the aqueous phase was extracted with ethyl acetate (75 mL). The combined organic layers were washed with a saturated aqueous solution of NaHCO3 (50 mL) and of brine (50 mL). The organic layer was dried over Na2SO4, filtrated and evaporated under reduced pressure. The yellow, oily residue was dried at high vacuum at room temperature to give 6.2 g (100%) of the product as yellow oil. The crude product was purified by flash chromatography over silica gel with ethyl acetate to yield the pure 4-phenyl-butyric acid 2-[(pyridine-3-carbonyl)amino]-ethyl ester 5.6 g (89%) as a light yellow oil. 1H NMR (CDCl3) δ=1.87-1.95 (m, 2H), 2.29-2.34 (m, 2H), 2.58-2.63 (m, 2H), 3.67-3.72 (m, 2H), 4.25-4.29 (m, 2H), 7.11-7.41 (m, 7H), 8.08-8.12 (m, 1H), 8.65-8.67 (q, 1H), 8.99-9.00 (d, 1H). 13C NMR (CDCl3) δ=26.3, 33.4, 35.0, 39.6, 62.9, 123.5, 126.0, 128.4, 128.4, 130.0, 135.2, 141.1, 148.1, 152.1, 165.8, 173.9. MS (ESI) m/z=313.2 (100) [M+H+]. DC (silica gel/ethyl acetate): RF=0.32.

reactant | N-(2-Hydroxy-ethyl)-nicotinamide | 20.0 mmol, 3.3 g, 1.0 eq. | OCCNC(C1=CN=CC=C1)=O | C8H10N2O2
reactant | 4-phenylbutanoylchloride | 20 mmol, 3.65 g, 1.0 eq. | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-Phenyl-Butyric Acid 2-[(Pyridine-3-Carbonyl)Amino]-Ethyl Ester | 6.2 g, 100% | N1=CC(=CC=C1)C(=O)NCCOC(CCCC1=CC=CC=C1)=O | C18H20N2O3
